US04559347
The process according to claim 12 which comprises reacting 6-(2-dimethylaminoethenyl)-5-(n-propanoyl)-2(1H)-pyridinone with formamidine or ammonium acetate to produce 5-ethyl-1,6-naphthyridin-2(1H)-one.

reactant | 6-(2-dimethylaminoethenyl)-5-(n-propanoyl)-2(1H)-pyridinone | CN(C=CC1=C(C=CC(N1)=O)C(CC)=O)C | C12H16N2O2
reactant | formamidine | C(=N)N | CH4N2
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
product | 5-ethyl-1,6-naphthyridin-2(1H)-one | C(C)C1=C2C=CC(NC2=CC=N1)=O | C10H10N2O
